US07291635B2
The title D compound, (S)-2-t-butoxycarbonylamino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-propionic acid benzyl ester (127 mg, 0.20 mmol) is dissolved in EtOAc/EtOH (50:50) (56 mL) and 10% palladium on carbon (35 mg) is added and the mixture is treated with 45 psi of hydrogen on a Parr shaker apparatus. After two 90 min runs, starting material is not completely consumed, so another aliquot of 10% palladium on carbon (35 mg) is added and after shaking at 45 psi hydrogen for 30 min, the reaction is complete. The mixture is filtered through celite, the filtrate is concentrated and dried to give (S)-2-t-butoxycarbonylamino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-propionic acid as a white foam: [M+1]+=534.

reactant | (S)-2-t-butoxycarbonylamino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-propionic acid benzyl ester | 0.20 mmol, 127 mg | C(C1=CC=CC=C1)OC([C@H](CC1=CC(=CC=C1)CN1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)NC(=O)OC(C)(C)C)=O | C32H37N3O8S
reactant | hydrogen | [H][H] | H2
solvent | EtOAc EtOH | 56 mL | CCOC(=O)C.CCO
catalyst | palladium on carbon | 35 mg | [Pd] | Pd
product | (S)-2-t-butoxycarbonylamino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=CC=C1)CN1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C25H31N3O8S
